* Z:\mnt\design.r\spice\examples\3012.asc
V1 N001 0 PWL(0 0 1 10)
C1 OUT 0 3.3µ
R1 OUT N002 750K
R2 N002 0 249K
Rload OUT 0 100
XU1 MP_01 OUT MP_02 N002 0 MP_03 MP_04 N001 MP_05 N001 LT3012
.tran 1
.lib LT3012.lib
.backanno
.end
